### PR TITLE
[Merged by Bors] - chore: rename `Equiv.subset_image`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
`Finset` versions of the renamed lemmas are also added.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Set.lean [hunk 1]
```diff
@@ -62,18 +62,18 @@ theorem _root_.Set.preimage_equiv_eq_image_symm {α β} (S : Set α) (f : β ≃
 
 -- Porting note: increased priority so this fires before `image_subset_iff`
 @[simp high]
-protected theorem subset_image {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
+protected theorem symm_image_subset_iff {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
     e.symm '' t ⊆ s ↔ t ⊆ e '' s := by rw [image_subset_iff, e.image_eq_preimage]
-#align equiv.subset_image Equiv.subset_image
+#align equiv.subset_image Equiv.symm_image_subset_iff
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:68]:
```suggestion
#align equiv.subset_image Equiv.symm_image_subset_iff

@[deprecated] alias subset_image := symm_image_subset_iff -- deprecated since 2024-01-19

```

File: Mathlib/Logic/Equiv/Set.lean [hunk 2]
```diff
@@ -62,18 +62,18 @@ theorem _root_.Set.preimage_equiv_eq_image_symm {α β} (S : Set α) (f : β ≃
...
 @[simp high]
-protected theorem subset_image' {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
+protected theorem subset_symm_image_iff {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
     s ⊆ e.symm '' t ↔ e '' s ⊆ t :=
   calc
-    s ⊆ e.symm '' t ↔ e.symm.symm '' s ⊆ t := by rw [e.symm.subset_image]
+    s ⊆ e.symm '' t ↔ e.symm.symm '' s ⊆ t := by rw [e.symm.symm_image_subset_iff]
     _ ↔ e '' s ⊆ t := by rw [e.symm_symm]
-#align equiv.subset_image' Equiv.subset_image'
+#align equiv.subset_image' Equiv.subset_symm_image_iff
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:77]:
```suggestion
#align equiv.subset_image' Equiv.subset_symm_image_iff

@[deprecated] alias subset_image' := subset_symm_image_iff -- deprecated since 2024-01-19

```

**Review by j-loreaux — COMMENTED** [review]
Just FYI, we're now adding `@[deprecated] alias` to things that get deleted. For now, I'm including a `-- deprecated since <date>` comment until we have better support for such a feature within the attribute itself.

File: Mathlib/Logic/Equiv/Set.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Logic/Equiv/Set.lean]: @j-loreaux Right, done.

File: Mathlib/Data/Finset/Image.lean [hunk 3]
```diff
@@ -162,6 +162,18 @@ theorem map_subset_map {s₁ s₂ : Finset α} : s₁.map f ⊆ s₂.map f ↔ s
    fun h => by simp [subset_def, Multiset.map_subset_map h]⟩
 #align finset.map_subset_map Finset.map_subset_map
 
+/-- The `Finset` version of `Equiv.subset_symm_image_iff`. -/
+theorem subset_symm_map_iff {t : Finset β} {f : α ≃ β} : s ⊆ t.map f.symm ↔ s.map f ⊆ t := by
```
Comment (j-loreaux) [inline Mathlib/Data/Finset/Image.lean:166]: I understand why you had it in the order you did (for parallelism with `Equiv` versions), but I think this makes more sense here because we don't have any infix notation for `Finset.map`. And I don't think the `_iff` is necessary.
```suggestion
theorem subset_map_symm {t : Finset β} {f : α ≃ β} : s ⊆ t.map f.symm ↔ s.map f ⊆ t := by
```

File: Mathlib/Data/Finset/Image.lean [hunk 4]
```diff
@@ -162,6 +162,18 @@ theorem map_subset_map {s₁ s₂ : Finset α} : s₁.map f ⊆ s₂.map f ↔ s
...
+  constructor <;> intro h x hx
+  · simp only [mem_map_equiv, Equiv.symm_symm] at hx
+    simpa using h hx
+  · simp only [mem_map_equiv]
+    exact h (by simp [hx])
+
+/-- The `Finset` version of `Equiv.symm_image_subset_iff`. -/
+theorem symm_map_subset_iff {t : Finset β} {f : α ≃ β} : t.map f.symm ⊆ s ↔ t ⊆ s.map f := by
```
Comment (j-loreaux) [inline Mathlib/Data/Finset/Image.lean:174]:
```suggestion
theorem map_symm_subset {t : Finset β} {f : α ≃ β} : t.map f.symm ⊆ s ↔ t ⊆ s.map f := by
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 5]
```diff
@@ -62,18 +62,22 @@ theorem _root_.Set.preimage_equiv_eq_image_symm {α β} (S : Set α) (f : β ≃
 
 -- Porting note: increased priority so this fires before `image_subset_iff`
 @[simp high]
-protected theorem subset_image {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
+protected theorem symm_image_subset_iff {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:65]:
```suggestion
protected theorem symm_image_subset {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 6]
```diff
@@ -62,18 +62,22 @@ theorem _root_.Set.preimage_equiv_eq_image_symm {α β} (S : Set α) (f : β ≃
...
     e.symm '' t ⊆ s ↔ t ⊆ e '' s := by rw [image_subset_iff, e.image_eq_preimage]
-#align equiv.subset_image Equiv.subset_image
+#align equiv.subset_image Equiv.symm_image_subset_iff
+
+@[deprecated] alias subset_image := Equiv.symm_image_subset_iff -- deprecated since 2024-01-19
 
 -- Porting note: increased priority so this fires before `image_subset_iff`
 @[simp high]
-protected theorem subset_image' {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
+protected theorem subset_symm_image_iff {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:73]:
```suggestion
protected theorem subset_symm_image {α β} (e : α ≃ β) (s : Set α) (t : Set β) :
```

**Review by j-loreaux — COMMENTED** [review]
I thought the claim was that Yaël requested these names explicitly, but after checking the other PR I see that's not what you meant. I think the names I suggest below are ever so slightly better.

File: Mathlib/Data/Finset/Image.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Finset/Image.lean]: OK, done!

**Comment by j-loreaux** [comment]
bors merge
